US07700634B2
To a mixture of (R)-N-Boc-2-cyclohexylethanolamine (prepared as described for the (S) enantiomer, Luly et al., J. Org. Chem. 52, 1487-1492, 1987; 29.4 g, 94.5 mmol) and triphenylphosphine (37.2 g, 141.8 mmol) in toluene (150 ml) at 0° C. was added diisopropyl azodicarboxylate (19.5 ml, 99.2 mmol). After stirring for 1 h, 2-bromophenol (12.1 ml, 104.0 mmol) was added to the mixture at 0° C. The reaction mixture was stirred for 2 h at 0° C. and for 20 h at room temperature. The resulting mixture was partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane and the combined organic layers were washed with 2 N sodium hydroxide solution and brine, dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography eluting with 0-10% (v/v) ethyl acetate in heptane to afford (R)-2-(2-tert-butoxycarbonylamino-2-cyclohexylethoxy)bromobenzene (12.80 g, 32.1 mmol).

reactant | (R)-N-Boc-2-cyclohexylethanolamine | C(=O)(OC(C)(C)C)NC[C@H](O)C1CCCCC1 | C13H25NO3
reactant | triphenylphosphine | 141.8 mmol, 37.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 99.2 mmol, 19.5 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-bromophenol | 104.0 mmol, 12.1 ml | BrC1=C(C=CC=C1)O | C6H5BrO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-2-(2-tert-butoxycarbonylamino-2-cyclohexylethoxy)bromobenzene | 32.1 mmol, 12.80 g | C(C)(C)(C)OC(=O)N[C@@H](COC1=C(C=CC=C1)Br)C1CCCCC1 | C19H28BrNO3
